US09024032B2
Lithium chloride (515 mg, 12.1 mmol) in a 25 mL round bottom flask under high vacuum was heated with a heat gun until a free flowing granular solid was obtained (˜5 min). The flask was cooled to room temperature, purged with N2, and treated with isopropylmagnesium chloride (6.1 mL of a 2 M solution in THF). After stirring at room temperature for 1 h, the mixture was cooled to −10° C. and treated with 3-(benzyloxy)-1-(biphenyl-3-yl)-5-bromopyridin-4(1H)-one (1.05 g, 2.4 mmol) as a suspension in 3.5 mL of THF. After stirring for 0.5 h, trimethylborate (1.35 mL, 12.1 mmol) was added dropwise and the reaction mixture was stirred an additional 3.5 h, before being quenched with the addition of MeOH (12 mL) to provide a solution of crude dimethyl[5-(benzyloxy)-1-(biphenyl-3-yl)-4-oxo-1,4-dihydropyridin-3-yl]boronate which was used directly in the subsequent step. LC/MS (M+H)+ 398. The solution of crude dimethyl[5-(benzyloxy)-1-(biphenyl-3-yl)-4-oxo-1,4-dihydropyridin-3-yl]boronate (2.4 mmol) in THF/MeOH from the preceeding step and 10% Pd/C (52 mg, 0.49 mmol) was stirred under H2 (1 atm) for 18 h. The reaction mixture was diluted with MeOH (20 mL), filtered through a pad of Celite (MeOH wash), and concentrated under reduced pressure. The residue was diluted with DMF (10 mL) and 0.5 M aq, HCl (0.4 mL) and purified by reversed phase HPLC (2 cm×5 cm C18, acetonitrile-water gradient, 0.05% TFA added, fractions were lypholized) to provide [1-(biphenyl-3-yl)-5-hydroxy-4-oxo-1,4-dihydropyridin-3-yl]boronic acid. 1H NMR (599 MHz, DMSO, 75° C.): δ 8.19 (d, J=2.3 Hz, 1 H); 7.89 (d, J=2.3 Hz, 1 H); 7.83 (s, 1 H); 7.79-7.74 (m, 3 H); 7.67-7.61 (m, 1 H); 7.56 (d, J=8.1 Hz, 1 H); 7.49 (t, J=7.6 Hz, 2 H); 7.46-7.38 (m, 1 H). HRMS (ES) Calc (M+H)+ 308.1089. Found 308.1092.

reactant | dimethyl[5-(benzyloxy)-1-(biphenyl-3-yl)-4-oxo-1,4-dihydropyridin-3-yl]boronate | 2.4 mmol | COB(OC)C1=CN(C=C(C1=O)OCC1=CC=CC=C1)C=1C=C(C=CC1)C1=CC=CC=C1 | C26H24BNO4
solvent | THF MeOH | C1CCOC1.CO
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | 0.49 mmol, 52 mg | [Pd] | Pd
product | [1-(biphenyl-3-yl)-5-hydroxy-4-oxo-1,4-dihydropyridin-3-yl]boronic acid | C1(=CC(=CC=C1)N1C=C(C(C(=C1)O)=O)B(O)O)C1=CC=CC=C1 | C17H14BNO4
